US08110588B2
5-(5-Chloro-2-methoxy-phenyl)-3-(2,4-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylamine (4)
To an ice-cooled and stirred mixture of 1-azido-2,4-dichloro-benzene (0.9 g, 1 eq) and commercial (5-chloro-2-methoxy-phenyl)-acetonitrile (1.04 g, 1.2 eq) in ethanol (10 ml) kept under nitrogen, a solution of sodium methoxide (0.388 g, 1.5 eq) in ethanol (10 ml) is added drop-wise (20 min). After the addition, the reaction mixture is allowed to reach room temperature spontaneously and stirring is then continued overnight at room temperature. The resulting reaction mixture is diluted with ethyl acetate (40 ml), washed with water (2×50 ml), dried over MgSO4 and evaporated to dryness. The yellow solid residue (0.820 g) is purified by crystallization from a mixture of dichloromethane and hexane (1:1), to afford the title compound as white solid (0.480 g, 28% yield). M.p. 153.5-154.7° C.

reactant | 1-azido-2,4-dichloro-benzene | 0.9 g, 1 eq | N(=[N+]=[N-])C1=C(C=C(C=C1)Cl)Cl | C6H3Cl2N3
reactant | (5-chloro-2-methoxy-phenyl)-acetonitrile | 1.04 g, 1.2 eq | ClC=1C=CC(=C(C1)CC#N)OC | C9H8ClNO
reactant | sodium methoxide | 0.388 g, 1.5 eq | C[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 5-(5-Chloro-2-methoxy-phenyl)-3-(2,4-dichloro-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.480 g, 28% yield | ClC=1C=CC(=C(C1)C1=C(N(N=N1)C1=C(C=C(C=C1)Cl)Cl)N)OC | C15H11Cl3N4O
